US06867205B2
5-Aminomethyl-2-(2-chloro-4-fluoro-phenyl)-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine
The title compound, MS: m/e=396.8 (M+), was prepared from 2-chlor-4-fluoro-benzamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | 2-chlor-4-fluoro-benzamidine | ClC1=C(C(=N)N)C=CC(=C1)F | C7H6ClFN2
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-2-(2-chloro-4-fluoro-phenyl)-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=C(C=C(C=C1)F)Cl)N | C17H12Cl3FN4
